US03932411
5-{ 3-[4-(2-chlorophenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
from 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4-(2-chlorophenyl)-piperazine; yield 78.0% of theory; m.p. of the hydrochloride (recrystallized from water) 248°-250°C;

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4-(2-chlorophenyl)-piperazine | ClCCCN1CCN(CC1)C1=C(C=CC=C1)Cl | C13H18Cl2N2
reactant | hydrochloride | Cl | ClH
product | 5-{ 3-[4-(2-chlorophenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 78.0% | ClC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=C2CCCC(C2=CC=C1)=O | C23H27ClN2O2
